US05401772
Powdered anhydrous potassium carbonate (1.95 kg, 14.1 mol) is suspended in anhydrous dimethyl sulfoxide (20 L) and to this suspension is added 4-benzyloxy-3-isopropyl-phenylacetate (2.36 kg, 9.74 mol) and 4-chloro-3,5-dimethylnitrobenzene (1.81 kg, 9.74 mol). This mixture is heated to an internal temperature of 12:5° for 23 hours. After cooling to 40° the reaction mixture is diluted with ice water (40 L). The precipitate is filtered, washed with water 5×4 L) and air-dried for 48 hours to obtain partially wet brown solids. The product is dissolved in hot isopropanol (4 L) and to this refluxing solution is added charcoal (KB, 200 g). After stirring at reflux for 0.5 hour, the mixture is filtered hot and the filtrate is cooled to 10° for 1 hour. The solids are collected by filtration and washed with cold (4°) isopropanol (3×500 mL). After drying overnight (25°, 3 Torr) the product is subjected to crystallization from isopropanol (3 L) to obtain 3,5-dimethyl-4-(3'-isopropyl-4'-benzyloxyphenoxy) -nitrobenzene, m.p. 99°-100°.

reactant | potassium carbonate | 14.1 mol, 1.95 kg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-benzyloxy-3-isopropyl-phenylacetate | 9.74 mol, 2.36 kg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)[O-])C(C)C
reactant | 4-chloro-3,5-dimethylnitrobenzene | 9.74 mol, 1.81 kg | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
reactant | charcoal | 200 g | C | CH4
solvent | dimethyl sulfoxide | 20 L | CS(=O)C | C2H6OS
solvent | isopropanol | 4 L | C(C)(C)O | C3H8O
product | 3,5-dimethyl-4-(3'-isopropyl-4'-benzyloxyphenoxy) -nitrobenzene | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)C)C)[N+](=O)[O-] | C24H25NO4
